US08877751B2
Preparation of methyl 3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzoate
A solution, kept under nitrogen, of 10.1 g (44 mmol) of methyl 3-(5-hydroxypyrimidin-2-yl)benzoate, 17.3 g (66 mmol) of triphenylphosphine and 5.9 ml (48.4 mmol) of 2-morpholin-4-ylethanol in 100 ml of THF is cooled in an ice bath, and 12.95 ml (66 mmol) of diisopropyl azodicarboxylate are slowly added dropwise with stirring. After stirring at room temperature for 2 hours, the reaction mixture is evaporated in vacuo. The residue is taken up in 100 ml of dichloromethane and 100 ml of water. The organic phase is dried over sodium sulfate and evaporated. The residue is recrystallised from isopropanol: methyl 3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzoate as beige crystals; m.p. 89-91°; ESI 344 (M+H); HPLC: 2.06 min (method A).

reactant | methyl 3-(5-hydroxypyrimidin-2-yl)benzoate | 44 mmol, 10.1 g | OC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C12H10N2O3
reactant | triphenylphosphine | 66 mmol, 17.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-morpholin-4-ylethanol | 48.4 mmol, 5.9 ml | N1(CCOCC1)CCO | C6H13NO2
reactant | diisopropyl azodicarboxylate | 66 mmol, 12.95 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | methyl 3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzoate | N1(CCOCC1)CCOC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C18H21N3O4
